US06518277B1
3-Aminonaphthalene-2-carboxylic acid (2-chlorophen-yl)amide (1n)
Prepared according to Procedure A using 3-amino-2-napthoic acid (2.0 g, 10.7 mmol) and SOCl2 (1.9 mL, 26.7 mmol) in benzene (50 mL), followed by 2-chloroaniline (2.3 mL, 21.4 mmol) and CHCl3 (50 mL). The product was recrystallized from MeOH to provide 1.71 g of a brown solid (54%). 1H NMR (CDCl3) δ: 10.88 (br s, 1H); 9.21 (s, 1H); 8.91 (s, 1H); 8.70 (dd, J=1.0, 8.3 Hz, 1H); 7.95-8.01 (m, 1H); 7.87-7.94 (m, 1H); 7.60-7.68 (m, 2H); 7.41 (dd, J=1.3, 8.0 Hz, 1H); 7.34 (dt, J=1.2, 7.8 Hz, 1H); 7.07 (dt, J=1.4, 7.7 Hz, 1H). MS (ES): m/z 297.1 (M+).

reactant | 3-amino-2-napthoic acid | 10.7 mmol, 2.0 g | NC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H9NO2
reactant | SOCl2 | 26.7 mmol, 1.9 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 21.4 mmol, 2.3 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 3-Aminonaphthalene-2-carboxylic acid (2-chlorophen-yl)amide | 1.71 g, 54% | ClC1=C(C=CC=C1)NC(=O)C1=CC2=CC=CC=C2C=C1N | C17H13ClN2O
